US06528510B1
6-tert-Butyl-5-(toluene-4-sulfonylsulfanyl)-1H-indole-2-carboxylic acid ethyl ester
The title compound was prepared according to General Method 15 using (6-tert-Butyl-5-mercapto-1H-indole-2-carboxylic acid ethyl ester (prepared in Example AAA), pyridine, tosyl bromide, carbon tetrachloride, and EtOAc.

reactant | 6-tert-Butyl-5-mercapto-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)S)C(C)(C)C | C15H19NO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | tosyl bromide | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-tert-Butyl-5-(toluene-4-sulfonylsulfanyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C22H25NO4S2
